US07553842B2
Step B: Preparation of 3-(S)-(3-hydroxypropylsulfanyl)-dihydrofuran-2-one:
A solution of 3-mercaptopropan-1-ol (360 mg, 3.90 mmol) in THF (8 mL) cooled to 0° C. was treated with 60% NaH (86 mg, 2.15 mmol). After warming to room temperature and stirring for 30 minutes, a solution of (R)-toluene-4-sulfonic acid 2-oxotetrahydrofuran-3-yl ester (500 mg, 1.95 mmol) in THF (2 mL) was added. After stirring at room temperature for 60 hours, the reaction mixture was quenched with saturated NaHCO3 and diluted with EtOAc. The organic layer was washed with saturated NH4Cl, saturated NaHCO3, saturated NaCl, dried over Na2SO4 and concentrated under reduced pressure. The residue was chromatographed (2:1 EtOAc/hexanes) to provide the product as colorless oil (155 mg, 45%).

reactant | 3-mercaptopropan-1-ol | 3.90 mmol, 360 mg | SCCCO | C3H8OS
reactant | NaH | 2.15 mmol, 86 mg | [H-].[Na+]
reactant | (R)-toluene-4-sulfonic acid 2-oxotetrahydrofuran-3-yl ester | 1.95 mmol, 500 mg | O=C1OCC[C@H]1OS(=O)(=O)C1=CC=C(C=C1)C | C11H12O5S
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(S)-(3-hydroxypropylsulfanyl)-dihydrofuran-2-one | 155 mg, 45% | OCCCS[C@@H]1C(OCC1)=O | C7H12O3S
